US04315016
Ethyl 2-(1,2,4-triazol-1-yl)-benzyl ether (Compound 6)
The diethyl acetal of benzaldehyde (3.6 g) and acetyl chloride (2.5 g) were reacted in the presence of a trace of copper bronze. The product was reacted with 1,2,4-triazole (2.8 g) to give the title compound as a viscous oil which GLC showed to be about 95% pure.

reactant | benzaldehyde | 3.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetyl chloride | 2.5 g | C(C)(=O)Cl | C2H3ClO
reactant | 1,2,4-triazole | 2.8 g | N1N=CN=C1 | C2H3N3
catalyst | copper bronze | [Cu] | Cu
product | Ethyl 2-(1,2,4-triazol-1-yl)-benzyl ether | N1(N=CN=C1)C1=C(COCC)C=CC=C1 | C11H13N3O
